US05318992
t-Butyl isothiocyanate (11.6 ml, 0.1 mol) and cyclopropylamine (6.9 ml, 0.1 mol) were mixed in toluene (200 ml) and stirred at room temperature overnight. The resulting mixture was evaporated to a residue and crystallized from cyclohexane to yield N-cyclopropyl-N-butyl thiourea. N-cyclopropyl-N-t-butyl thiourea (5 g) was suspended in 5M HCl (50 ml) and heated to 80° C. for 10 minutes. The resulting solution was cooled, poured into a saturated sodium bicarbonate (250 ml), and extracted with ethyl acetate (2×125 ml). The solution was dried (MgSO4), evaporated to a residue and crystallized from ethyl acetate to yield a white solid, cyclopropyl thiourea, 110 mg.

reactant | t-Butyl isothiocyanate | 0.1 mol, 11.6 ml | C(C)(C)(C)N=C=S | C5H9NS
reactant | cyclopropylamine | 0.1 mol, 6.9 ml | C1(CC1)N | C3H7N
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropyl-N-butyl thiourea | C1(CC1)N(C(=S)N)CCCC | C8H16N2S
